US06403595B1
To a solution of 1-[1-(4-pyridyl)-4-piperidylmethyl]-2-piperazinone (549 mg) and triethylamine (0.836 ml) in dichloromethane (10 ml) was added dropwise a solution of 4-(2-bromo-1-methylethyl)benzenesulfonyl chloride (893 mg) in dichloromethane (2 ml) at 0° C., and the mixture was stirred at 0° C. for 1 hour and then at room temperature for 6 hours. The reaction solution was diluted with dichloromethane, washed with water and saturated brine, dried (MgSO4) and concentrated. The residue was dissolved in ethanol (20 ml), and to the solution was added 1N sodium hydroxide (2 ml). The mixture was stirred at 80° C. for 30 minutes, and to the reaction solution was added ethyl acetate. The mixture was washed with water and saturated brine, dried (MgSO4) and concentrated, and the residue was purified with silica gel column chromatography (acetone:methanol=9:11:1) and washed with water to give colorless crystals of 4-(4-isopropenylbenzenesulfonyl)-1-[1-(4-pyridyl)-4-piperidylmethyl]-2-piperazinone (155 mg).

reactant | 1-[1-(4-pyridyl)-4-piperidylmethyl]-2-piperazinone | 549 mg | N1=CC=C(C=C1)N1CCC(CC1)CN1C(CNCC1)=O | C15H22N4O
reactant | triethylamine | 0.836 ml | C(C)N(CC)CC | C6H15N
reactant | 4-(2-bromo-1-methylethyl)benzenesulfonyl chloride | 893 mg | BrCC(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H10BrClO2S
solvent | dichloromethane | 10 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 2 ml | ClCCl | CH2Cl2
product | 4-(4-isopropenylbenzenesulfonyl)-1-[1-(4-pyridyl)-4-piperidylmethyl]-2-piperazinone | 155 mg | C(=C)(C)C1=CC=C(C=C1)S(=O)(=O)N1CC(N(CC1)CC1CCN(CC1)C1=CC=NC=C1)=O | C24H30N4O3S
